US09193720B2
A mixture of 5-bromo-2-(4-fluorophenethoxy)pyrimidine (200 mg), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (256 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (24.63 mg) and KOAc (198 mg) in 1,4-dioxane (8 mL) in a sealed tube was degassed with nitrogen for 2 minutes and then heated at 85° C. for 4 hours, followed by being stirred at room temperature for 24 h. The mixture was diluted with EtOAc, washed with water, brine, dried over MgSO4 and concentrated under vacuum. The residue was purified by silica gel column (Hex/EtOAc=10:1) to give (2-(4-fluorophenethoxy)pyrimidin-5-yl)boronic acid (70 mg). LCMS (M+H)=263.1.

reactant | 5-bromo-2-(4-fluorophenethoxy)pyrimidine | 200 mg | BrC=1C=NC(=NC1)OCCC1=CC=C(C=C1)F | C12H10BrFN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 256 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 198 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 24.63 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2-(4-fluorophenethoxy)pyrimidin-5-yl)boronic acid | 70 mg | FC1=CC=C(CCOC2=NC=C(C=N2)B(O)O)C=C1 | C12H12BFN2O3
